US06498172B1
3-(3-{[Benzenesulfonyl-(4-pyrazin-2-yl-benzyl)-amino]-methyl}-phenyl)-propionic acid methyl ester.
The title compound of Step B was prepared from 3-{3-[(4-pyrazin-2-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester, of Step A, and benzenesulfonyl chloride following the method described in Example 1, Step B using triethylamine in place of N,N-diisopropylethylamine. 1H NMR (400 MHz, CDCl3) δ 8.98 (s, 1H), 8.60 (m, 1H), 8.50 (d, 1H), 7.87 (m, 4H), 7.63 (m, 1H), 7.56 (m, 2H), 7.17 (d, 2H), 7.12 (m, 1H), 7.02 (d, 1H), 6.87 (d, 1H), 6.78 (s, 1H), 4.37 (s, 2H), 4.32 (s, 2H), 3.64 (s, 3H), 2.78 (t, 2H), 2.47 (t, 2H); MS 502 (M+1).

reactant | 3-{3-[(4-pyrazin-2-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C1=NC=CN=C1)=O | C22H23N3O2
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(3-{[Benzenesulfonyl-(4-pyrazin-2-yl-benzyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CN(CC1=CC=C(C=C1)C1=NC=CN=C1)S(=O)(=O)C1=CC=CC=C1)=O | C28H27N3O4S
